US07692006B2
(a) 1-(Cyclopropylcarbonyl)piperazine HCl Salt (I′)
Acetic acid (700 ml) was treated with piperazine (50.00 g, 0.581 mol) portionwise over 15 minutes with stirring under nitrogen The reaction mixture was warmed to 40° C. and maintained at this temperature until a complete solution was obtained. Cyclopropanecarbonyl chloride 59.2 ml, 0.638 mol) was added over 15 minutes. The reaction mixture was stirred at room temperature overnight. The reaction mixture was filtered and the filtrate distilled under reduced pressure until 430 ml of distillates had been collected. Toluene (550 ml) was charged to the reaction mixture and reduced pressure distillation continued until a further 400 ml of distillates were collected. A further charge of toluene (550 ml) was added and reduced pressure distillation continued until 350 ml of distillates were collected. The resulting slurry was diluted with toluene (200 ml) and stirred overnight. Further toluene (500 ml) was added in order to mobilise the slurry. The slurry was filtered, washed with toluene (100 ml) and dried in vacuo at 40° C. to give the title compound as an off white solid (86.78 g).

reactant | piperazine | 0.581 mol, 50.00 g | N1CCNCC1 | C4H10N2
reactant | Cyclopropanecarbonyl chloride | 0.638 mol, 59.2 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | Acetic acid | 700 ml | C(C)(=O)O | C2H4O2
product | 1-(Cyclopropylcarbonyl)piperazine HCl Salt | Cl.C1(CC1)C(=O)N1CCNCC1 | InChI=1S/C8H14N2O.ClH/c11-8(7-1-2-7)10-5-3-9-4-6-10;/h7,9H,1-6H2;1H
